US04153721
To a solution of 0.25 mole of sodium ethoxide is added 64 g. (0.25 mole) of ethyl 4-(4-hydroxyphenyl)phenylacetate. After stirring two hours the solution is evaporated, benzene is added, and the solution is further evaporated. The residue is dissolved in 800 ml. of benzene, 0.25 mole of ethyl α-chloroacetoacetate is added, and the mixture is stirred at room temperature, then heated at its reflux temperature for 16 hours and filtered hot. Evaporation provides a residue which is dissolved in carbon tetrachloride and filtered through silica gel. This intermediate is treated with concentrated sulfuric acid at 0° C. After stirring one hour, ice is added and the mixture is extracted with benzene. The benzene layer is dried, then evaporated. The residue is recrystallized from a dichloromethanehexane mixture, then carbon tetrachloride, to provide ethyl 4-(2-ethoxycarbonyl 3-methylbenzofuran-5-yl)phenylacetate, m.p. 110°-112° C.

reactant | sodium ethoxide | 0.25 mole | [O-]CC.[Na+]
reactant | ethyl 4-(4-hydroxyphenyl)phenylacetate | 0.25 mole | OC1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)OCC | C16H16O3
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethyl α-chloroacetoacetate | 0.25 mole | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 4-(2-ethoxycarbonyl 3-methylbenzofuran-5-yl)phenylacetate | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C2=CC=C(C=C2)CC(=O)OCC | C22H22O5
